US09353083B2
1.9 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (10.2 mmol), 1.4 g of N-hydroxybenzotriazole (10.2 mmol), 3.8 ml of triethylamine (27.2 mmol) and then 2.2 g (8.7 mmol) of 3-cyclopropylmethoxy-3-o-tolylazetidine hydrochloride dissolved in 35 ml of N,N-dimethylformamide are successively added to a solution of 2.7 g (9.2 mmol) of (R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propanoic acid in 55 ml of N,N-dimethylformamide. The reaction medium is stirred at room temperature for 38 hours. A 1/1 heptane/ethyl acetate mixture is added and the reaction medium is washed with aqueous 1N sodium hydroxide solution. The organic phase is then washed with aqueous 1N hydrochloric acid solution, dried over sodium sulfate, filtered and concentrated under vacuum. 2.7 g of crude residue are obtained and are purified by chromatography on silica gel eluted with a heptane/ethyl acetate mixture, the polarity being increased from 95/5 to 60/40. 1.8 g (41%) of tert-butyl [(R)-2-(3-cyclopropylmethoxy-3-o-tolylazetidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]carbamate are obtained in the form of a white solid.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 10.2 mmol, 1.9 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxybenzotriazole | 10.2 mmol, 1.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 27.2 mmol, 3.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3-cyclopropylmethoxy-3-o-tolylazetidine hydrochloride | 8.7 mmol, 2.2 g | Cl.C1(CC1)COC1(CNC1)C1=C(C=CC=C1)C
reactant | (R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propanoic acid | 9.2 mmol, 2.7 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)OC | C15H21NO5
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | tert-butyl [(R)-2-(3-cyclopropylmethoxy-3-o-tolylazetidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]carbamate | 1.8 g, 41% | C1(CC1)COC1(CN(C1)C([C@@H](CC1=CC=C(C=C1)OC)NC(OC(C)(C)C)=O)=O)C1=C(C=CC=C1)C | C29H38N2O5
